US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.06 g) was reacted with 1-methylazetidin-3-amine hydrochloride similar to as described in Example 2 to afford 13.4 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methylazetidin-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 442 (M)+. 1H NMR (400 MHz, DMSO) δ 11.76 (d, J=6.7 Hz, 1H), 8.61 (d, J=8.4 Hz, 1H), 8.41 (s, 1H), 7.90 (s, 1H), 7.01 (d, J=10.5 Hz, 1H), 5.48 (s, 1H), 5.01-4.93 (m, 2H), 4.55-4.49 (m, 2H), 4.37 (dd, J=13.4, 6.7 Hz, 1H), 3.58 (t, J=7.2 Hz, 2H), 2.84 (t, J=7.1 Hz, 2H), 2.24 (s, 3H), 1.49 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.06 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-methylazetidin-3-amine hydrochloride | Cl.CN1CC(C1)N
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methylazetidin-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 13.4 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CN(C3)C)C=C1C#CC(C)(C)O | C22H24FN5O4
